US05290919
A. Synthesis of Tris(3,5-dibromosalicyl)-tricarballvlate (TTA)
Tricarballylic trichloride (0.01 mol) (see Emery, Ber., 22:2921 (1989)) in dry tetrahydrofuran (THF) (10 ml) was added dropwise to three equivalents of tert-butyl 3,5-dibromosalicylate (see Delaney et al, Arch. Biochem. Biophys., 28:627 (1984)) previously been treated with a stoichiometric amount of NaH in THF. The mixture was stirred for 5 hours at room temperature, and the solvent was then removed under reduced pressure. The residue was dissolved in diethyl ether and extracted several times with water. The extract was dried over MgSO4, filtered and concentrated. Recrystallization from ethanol gave a pure product; m.p. 100-102° C. The resulting product (2 mmol) was dissolved in anhydrous trifluoroacetic acid (10 ml) and allowed to stand at room temperature. After 30 minutes, the solvent was removed under reduced pressure and the precipitate recrystallized from trifluoroacetic acid; m.p. 186° C. (see Razynska et al, supra).

reactant | Tricarballylic trichloride | 0.01 mol | C(CC(C(=O)Cl)CC(=O)Cl)(=O)Cl | C6H5Cl3O3
reactant | tert-butyl 3,5-dibromosalicylate | three equivalents | BrC1=C(C(C(=O)OC(C)(C)C)=CC(=C1)Br)O | C11H12Br2O3
reactant | NaH | [H-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | Tris(3,5-dibromosalicyl)-tricarballvlate | BrC1=C(C(COC(CC(C(=O)OCC=2C(O)=C(C=C(C2)Br)Br)CC(=O)OCC=2C(O)=C(C=C(C2)Br)Br)=O)=CC(=C1)Br)O | C27H20Br6O9
